US05578620
3-(6-Phenylhexyloxy)-2-hydroxypropylamine
A procedure similar to that described in Preparation 13 was repeated, except that 4.5 g of 3-(6-phenylhexyloxy)-2-hydroxypropylazide (prepared as described in Preparation 62), 1.23 g of lithium aluminum hydride and 150 ml of anhydrous tetrahydrofuran were used, to give 3.14 g of the title compound as a pale yellow oil having an Rf value of 0.12 (on silica gel thin layer chromatography, using a 5:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine as the developing solvent).

reactant | 3-(6-phenylhexyloxy)-2-hydroxypropylazide | 4.5 g | C1(=CC=CC=C1)CCCCCCOCC(CN=[N+]=[N-])O | C15H23N3O2
reactant | lithium aluminum hydride | 1.23 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-(6-Phenylhexyloxy)-2-hydroxypropylamine | 3.14 g | C1(=CC=CC=C1)CCCCCCOCC(CN)O | C15H25NO2
